US05308857
A mixture of 4-(5-aminomethylfuran-2yl)-2-(diaminomethyleneamino)thiazole (8.00 g) and dimethyl-N-cyanodithioiminocarbonate (2.54 g) in ethanol (80 ml) was refluxed for two hours with stirring. After cooling to room temperature, diisopropyl ether (80 ml) was added and the resulting precipitate was collected filtration. Recrystallization from a mixture of N,N-dimethylformamide and ethyl acetate to give 2-(diaminomethyleneamino)-4-[5-(3-cyano-2-methyl-1-isothioureido)methylfuran-3-yl]thiazole (10.2 g).

reactant | 4-(5-aminomethylfuran-2yl)-2-(diaminomethyleneamino)thiazole | 8.00 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
reactant | diisopropyl ether | 80 ml | C(C)(C)OC(C)C | C6H14O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-(diaminomethyleneamino)-4-[5-(3-cyano-2-methyl-1-isothioureido)methylfuran-3-yl]thiazole | 10.2 g | NC(N)=NC=1SC=C(N1)C1=COC(=C1)CNC(SC)=NC#N | C12H13N7OS2
